US06410732B2
A solution of 4.28 g of N-(2,6-dimethylphenyl)acridan (15 mmol) in 100 mL of THF under argon was cooled to −78° C. After 10 min, 7.6 mL of n-BuLi (18.7 mmol) was added. The black solution stirred 30 min and then the temperature was raised to 0° C. for 40 min. The reaction was again cooled to −78° C. and 270 g of crushed dry ice was added to the reaction mixture to form a yellow solution with a white precipitate that dissolved once the reaction was warmed to room temperature. The reaction was stirred for 16 h at room temperature, and then concentrated and taken up in a mixture of water and diethyl ether. The aqueous portion was acidified with HCl to afford a white precipitate, which was filtered and dried to give 4.8 g of N-(2,6-dimethylphenyl)acridan-9-carboxylic acid as a white solid (97%).

reactant | N-(2,6-dimethylphenyl)acridan | 15 mmol, 4.28 g | CC1=C(C(=CC=C1)C)N1C=2C=CC=CC2CC2=CC=CC=C12 | C21H19N
reactant | n-BuLi | 18.7 mmol, 7.6 mL | [Li]CCCC
reactant | dry ice | 270 g | C(=O)=O | CO2
solvent | THF | 100 mL | C1CCOC1 | C4H8O
product | N-(2,6-dimethylphenyl)acridan-9-carboxylic acid | 4.8 g, 97% | CC1=C(C(=CC=C1)C)N1C=2C=CC=CC2C(C2=CC=CC=C12)C(=O)O | C22H19NO2
